US07405300B2
2-(piperazin-1-yl)-1-benzyl-1H-indole-3-carboxaldehyde
2-Chloro-1-benzyl-1H-indole-3-carboxaldehyde (1.0 g, 5.5 mmol) is reacted with piperazine as described in Example 2 to yield the title compound (64%), mp 163-165° C., as a pale yellow solid. MS 320 (M+H).

reactant | 2-Chloro-1-benzyl-1H-indole-3-carboxaldehyde | 5.5 mmol, 1.0 g | ClC=1N(C2=CC=CC=C2C1C=O)CC1=CC=CC=C1 | C16H12ClNO
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 2-(piperazin-1-yl)-1-benzyl-1H-indole-3-carboxaldehyde | 64% | N1(CCNCC1)C=1N(C2=CC=CC=C2C1C=O)CC1=CC=CC=C1 | C20H21N3O
